US04935430
(c) 6-(2-Methylimidazo[4,5-c]pyrid-1-yl)pyridine-3-carboxylic acid
1-(5-Ethoxycarbonylpyrid-2-yl)-2-methylimidazo[4,5-c]pyridine (2.75 g, 9.75 mmol) was dissolved in ethanol (15 ml) and 2N aqueous sodium hydroxide (5.8 ml) was added. The mixture was stirred for 3 days at room temperature and then the solvent was removed under reduced pressure. The residue was neutralised (pH6) with dilute hydrochloric acid, and the resulting precipitate was filtered off and dried in vacuo. The title compound was obtained as a white solid (1.70 g, 69%).

reactant | 1-(5-Ethoxycarbonylpyrid-2-yl)-2-methylimidazo[4,5-c]pyridine | 9.75 mmol, 2.75 g | C(C)OC(=O)C=1C=CC(=NC1)N1C(=NC=2C=NC=CC21)C | C15H14N4O2
reactant | sodium hydroxide | 2N, 5.8 ml | [OH-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 6-(2-Methylimidazo[4,5-c]pyrid-1-yl)pyridine-3-carboxylic acid | CC=1N(C2=C(C=NC=C2)N1)C1=CC=C(C=N1)C(=O)O | C13H10N4O2
